US04281059
Preparation of 6-amino-2,2-dimethyl-4-mercapto-1,2-dihydro-1,3,5-triazine (Exemplified compound [II]-1)
In the 200 ml of acetone was refluxed for 3 hours 7.1 g (0.06 mole) of amidinothiourea in the presence of 6 ml of piperidine. After having been allowed to cool, the reaction mixture was filtered to collect 7.6 g (in 80% yield) of colorless powder as deposited. Recrystallization from alcohol gave 7.0 g (in 74% yield) of colorless branch-like crystals, m.p. 186.5°-187.5° C.

reactant | amidinothiourea | 0.06 mole, 7.1 g | C(N)(=N)NC(=S)N | C2H6N4S
reactant | piperidine | 6 ml | N1CCCCC1 | C5H11N
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 6-amino-2,2-dimethyl-4-mercapto-1,2-dihydro-1,3,5-triazine | 80% yield | NC1=NC(=NC(N1)(C)C)S | C5H10N4S
